Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ woman with generalized 
anxiety disorder, migraines, and history of bowel discomfort 
since childhood who presents with one day significant lower 
abdominal pain. Six days prior to presentation she experienced 
sharp pain in her lower abdomen, which was follow by several 
days of general abdominal discomfort that was less intense and 
more crampy in nature and not relieved by Gas-x or omeprazole. 
One day prior to admission she again developed sharp 
lower-midline abdominal pain, which woke her from sleep. The 
pain was not positional, did not radiate, and was not relieved 
by sumatriptan. There was associated nausea and decreased 
appetite, but no fever, vomiting, or diarrhea. She has a long 
history of irritable bowels but has not had this type of pain 
before. She has not had flank pain, dysuria, vaginal bleeding or 
abnormal discharge. Her LMP was about one month ago (her period 
started on the day of admission) and has not had a STI. 
Currently in a monogamous relationship with her boyfriend, using 
___ for protection, tested yearly for STIs, never positive in 
the past. She has not had recent illnesses, travel, or eaten 
uncooked foods that she is aware of. She has not noticed blood 
in her stools. She works at a pharmacy so is around sick people 
but no specific sick contacts. 

On ROS she reports intermittent night sweats, which seemed to 
begin about a year ago when she began taking Effexor. She has 
not had significant weight loss or weight gain.

In the ED, initial vitals:  98.0, 101, 111/75, 16, 99%RA 
- Labs were significant for 12.0 > 11.6/34.7 < 262 
;AST/ALT/ALKPHOS wnl; hCG negative ; UA with small bactiurea 
- CT abdomen and pelvis was performed. The appendix did not 
appear dilated or inflamed; there was mucosal enhancement of the 
terminal ileum concerning for inflammatory or infectious 
terminal ileitis. 
and mild edema of the cecal wall and associated lymphadenopathy. 

- In the ED, she received IVF and was started on cipro/flagyl.

Upon arrival to the floor, she was afebrile and comfortable in 
bed. She reports having mild abdominal pain, centered in the 
middle of the abdomen below the umbilicus. Her appetite is 
improving. 
 
REVIEW OF SYSTEMS: 
Positive as per HPI; otherwise negative. 
No fevers, chills, or weight changes. No changes in vision or 
hearing, no changes in balance. No cough, no shortness of 
breath, no dyspnea on exertion. No chest pain or palpitations. 
No vomiting. No diarrhea or constipation. No dysuria or 
hematuria. No hematochezia, no melena. No numbness or weakness, 
no focal deficits.  
 
Past Medical History:
MEDICAL HISTORY: 
- Generalized anxiety disorder  
- Migraines

SURGICAL HISTORY:
- Tonsillectomy
- Wisdom teeth extraction 
 
 
Social History:
___
Family History:
No known personal or family history of IBD, cancer, bleeding or 
clotting disorders (both parents adopted, so does not know 
extensive family history)
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vital Signs:  98.1 117/78 110 18 96 Ra 
General: Alert, oriented, no acute distress 
Skin: No lesions or rashes 
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally
Abdomen: Bowel sounds present, soft, non-distended, tender to 
moderate palpation in RLQ, no tap tenderness, no rebound or 
guarding, negative psoas and obturator signs, no masses or 
organomegaly, no scars
GU: Deferred
Ext: Warm, well perfused, 2+ pulses, no edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

DISCHARGE PHYSICAL EXAM:
Vitals:  97.9 ___ 20 98 Ra 
General: alert, oriented, in no acute distress  
HEENT: sclera anicteric, EOMI, MMM, 4mm oral ulcer on left 
cheek/lip, oropharynx clear
Neck: no LAD  
Lungs: clear to auscultation bilaterally
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 
Pertinent Results:
LABORATORY RESULTS ON ADMISSION
#ERROR!
___ 09:49PM BLOOD WBC-12.0* RBC-4.02 Hgb-11.6 Hct-34.7 
MCV-86 MCH-28.9 MCHC-33.4 RDW-12.9 RDWSD-40.4 Plt ___
___ 09:49PM BLOOD Neuts-75.1* Lymphs-16.3* Monos-7.5 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-8.99* AbsLymp-1.95 
AbsMono-0.90* AbsEos-0.02* AbsBaso-0.03
___ 09:49PM BLOOD Plt ___
___ 09:49PM BLOOD Glucose-88 UreaN-9 Creat-0.7 Na-136 K-3.6 
Cl-101 HCO3-20* AnGap-19
___ 09:49PM BLOOD HCG-<5

LABORATORY RESULTS ON DISCHARGE
#ERROR!
___ 07:50AM BLOOD WBC-6.7 RBC-3.95 Hgb-11.1* Hct-34.2 
MCV-87 MCH-28.1 MCHC-32.5 RDW-12.9 RDWSD-40.7 Plt ___
___ 07:50AM BLOOD Glucose-88 UreaN-5* Creat-0.7 Na-138 
K-4.2 Cl-104 HCO3-23 AnGap-15
___ 07:50AM BLOOD Calcium-8.7 Phos-2.6* Mg-2.0
___ 01:00PM BLOOD CRP-151.8*

IMAGING
#ERROR!
CT ABD/PELVIS
1. Mucosal enhancement of the terminal ileum, concerning for 
inflammatory or 
infectious terminal ileitis.  Mild edema of the cecal wall and 
associated 
lymphadenopathy.  Please correlate clinically. 
2. Normal appendix is visualized in right lower quadrant. 
3. Redundant colon with large volume of stool throughout. 

MICROBIOLOGY
#ERROR!
STOOL VIRAL CULTURE: PENDING
STOOL CULTURE: PENDING
BLOOD CULTURES: NO GROWTH TO DATE
URINE CULTURE: MIXED FLORA

 
Brief Hospital Course:
Ms. ___ is a ___ woman with a history of generalized 
anxiety disorder and migraines admitted with abdominal pain and 
found to have terminal ileitis.

#) Terminal ileitis
Pt admitted with lower abdominal pain and found to have right 
lower quadrant tenderness and labs were only significant for a 
mildly elevated WBC. Beta hCG was negative. CT scan of the 
abdomen and pelvis showed evidence of terminal ileitis with a 
normal appearing appendix. She was admitted and managed 
conservatively with IV hydration and acetaminophen for pain 
control. Bacterial and viral stool studies were collected and 
were pending at the time of discharge. Her abdominal pain 
improve overnight and on the morning of discharge she was able 
to tolerate a regular diet.  The etiology of her terminal 
ileitis remained unclear, possibly secondary to infectious 
versus inflammatory etiologies.  Patient was discharged with a 
plan to follow up with her PCP and an outpatient 
gastroenterolgist.

CHRONIC ISSUES
#ERROR!
# GAD: continued on home effexor 

TRANSITIONAL ISSUES
#ERROR!
1. Pt will schedule appointment with gastroenterologist for 
further management of terminal ileitis. If ileitis persists and 
stool studies unrevealing, patient may need outpatient 
colonoscopy.
2. Need to follow up stool studies (pending on discharge)

# CONTACT: Mother, ___, no number provided 
# CODE: presumed full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Venlafaxine XR 150 mg PO DAILY 
2. Tri-Sprintec (28) (norgestimate-ethinyl estradiol) 
0.18/0.215/0.25 mg-35 mcg (28) oral DAILY 

 
Discharge Medications:
1.  Tri-Sprintec (28) (norgestimate-ethinyl estradiol) 
0.18/0.215/0.25 mg-35 mcg (28) oral DAILY  
2.  Venlafaxine XR 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Terminal ilieitus 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your hospital stay 
at ___. You were hospitalized 
for abdominal pain.

You were treated for terminal ilieitus (inflammation of the 
small intestine). Specifically you received fluids through the 
IV and your diet was advanced from clear liquids, to full 
liquids, and then regular diet. You continued on your home 
medications.

On discharge, it is important for you to follow up with your 
primary care physician and ___ gastroenterologist as described 
below and to call your doctor or return to the emergency room if 
you develop any of the concerning symptoms listed below.

Please follow up with your primary care physician (an 
appointment has been scheduled), and a gastroenterologist upon 
discharge from the hospital. Please continue to take your home 
medications as prescribed. 

Take Care,
Your ___ Team. 
 
Followup Instructions:
___